US07572921B2
3-[[1-(3,5-Dichloro-benzyl)-1H-imidazol-2-ylmethyl]-(3-fluoro-benzyl)-amino]-propionamide)
To a mixture of 3-(3-Fluoro-benzylamino)-propionamide (98 mg, 0.5 mmol), 1-(3,5-dichloro-benzyl)-1H-imidazole-2-carbaldehyde, (see Example 2) (102 mg, 0.4 mmol) and CH2Cl2 (2 mL) was added NaBH(OAc)3 (119 mg, 0.56 mmol). The mixture was stirred at ambient temperature for 3 h before addition of saturated NaHCO3 (8 mL). The mixture was extracted with CH2Cl2 (2×15 mL) and the combined CH2Cl2 extracts dried over Na2SO4. Volatiles were removed in vacuo and the residue purified by column chromatography (silica gel, 20:1 CH2Cl2/MeOH) to provide the title compound (71 mg, 40%) as colorless, viscous oil: ESI MS m/z 435 [C21H21Cl2FN4O+H]+.

reactant | 3-(3-Fluoro-benzylamino)-propionamide | 0.5 mmol, 98 mg | FC=1C=C(CNCCC(=O)N)C=CC1 | C10H13FN2O
reactant | 1-(3,5-dichloro-benzyl)-1H-imidazole-2-carbaldehyde | ClC=1C=C(CN2C(=NC=C2)C=O)C=C(C1)Cl | C11H8Cl2N2O
reactant | NaBH(OAc)3 | 0.56 mmol, 119 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | 8 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-[[1-(3,5-Dichloro-benzyl)-1H-imidazol-2-ylmethyl]-(3-fluoro-benzyl)-amino]-propionamide | 71 mg, 40% | ClC=1C=C(CN2C(=NC=C2)CN(CCC(=O)N)CC2=CC(=CC=C2)F)C=C(C1)Cl | C21H21Cl2FN4O
